US09447091B2
N-(2′,5′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide
The compound was prepared from 2′,5′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-amine (70 mg, 0.175 mmol) using the procedure of Example 2(b) and ethanesulfonyl chloride (26 mg, 0.21 mmol, 1.2 eq.) to give the pure product in 16.2% yield (14 mg). NMR (400 MHz, DMSO-D6): δ10.35 (s, 1H), 8.80 (s, 1H), 8.23 (s, 1H), 8.00 (s, 1H), 7.96 (s, 1H), 7.70 (d, 1H), 7.65-7.60 (m, 4H), 7.51 (s, 2H), 7.49-7.39 (m, 1H), 3.88 (s, 3H), 3.30 (q, 2H), 1.26 (t, 3H), LC-MS (ESI): Calculated mass: 493.53; Observed mass: 494.2 [M+H]+ (rt: 0.1.33 min).

reactant | 2′,5′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-amine | 0.175 mmol, 70 mg | FC1=C(C=C(C=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C)N | C23H17F2N5
reactant | ethanesulfonyl chloride | 0.21 mmol, 26 mg, 1.2 eq. | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | N-(2′,5′-difluoro-5-(5-(1-methyl-1H-pyrazol-4-yl)-1H-benzo[d]imidazol-1-yl)-[1,1′-biphenyl]-3-yl)ethanesulfonamide | 16.2% yield | FC1=C(C=C(C=C1)F)C1=CC(=CC(=C1)N1C=NC2=C1C=CC(=C2)C=2C=NN(C2)C)NS(=O)(=O)CC | C25H21F2N5O2S
